US07208493B2
3,4,5-trihydroxy-N-[2-(1H-indol-2-yl)-phenyl]-benzamide
A 25-mL one-necked recovery flask equipped with a stirring bar and a septum was charged with gallic acid (176 mg; 1.03 mmol; 1.00 equiv). A clear, colorless solution was formed on addition of 5 mL of dichloromethane. Solid EDC (197 mg; 1.03 mmol; 1.00 equiv) and 2-(2-aminophenyl)indole (194 mg; 0.932 mmol; 0.904 equiv) were added sequentially as solids. The reaction was worked up after 24 h by extraction with 10 mL of NaHCO3 (satd aq). The organic layer was dried (anhydrous sodium sulfate), filtered and concentrated by rotary evaporation to yield a yellow oily paste. The crude was purified using DCM-MeOH (19:1) to yield a light yellow solid (230 mg; 68%).

reactant | gallic acid | 1.03 mmol, 176 mg, 1.00 equiv | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | EDC | 1.03 mmol, 197 mg, 1.00 equiv
reactant | 2-(2-aminophenyl)indole | 0.932 mmol, 194 mg, 0.904 equiv | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,4,5-trihydroxy-N-[2-(1H-indol-2-yl)-phenyl]-benzamide | OC=1C=C(C(=O)NC2=C(C=CC=C2)C=2NC3=CC=CC=C3C2)C=C(C1O)O | C21H16N2O4
